US06664260B2
3-(Bromomethyl)pyridine hydrobromide (0.638 g, 2.52 mmol) was added in a single portion with stirring to a solution containing 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (0.7 g, 2.29 mmol), benzyltrimethylammonium chloride (0.03 g), sodium hydroxide (28 mL of 50%) and dichloromethane (28 mL). After 3 hours analysis by TLC (5% methanol in dichloromethane) indicated that the reaction was complete. The reaction mixture was diluted with water (100 mL) and dichloromethane (100 mL). The layers were separated and the aqueous fraction was extracted with dichloromethane (100 mL). The organic fractions were combined, washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide a dark yellow solid. This material was purified by flash chromatography (silica gel eluting with 5% methanol in dichloromethane) to provide 0.74 g of 4-phenoxy-1-[2-(pyridin-3-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline as a bright yellow solid.

reactant | 3-(Bromomethyl)pyridine hydrobromide | 2.52 mmol, 0.638 g | Br.BrCC=1C=NC=CC1
reactant | 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 2.29 mmol, 0.7 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCO | C18H15N3O2
reactant | sodium hydroxide | 28 mL | [OH-].[Na+]
reactant | methanol | CO | CH4O
catalyst | benzyltrimethylammonium chloride | 0.03 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
product | 4-phenoxy-1-[2-(pyridin-3-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline | 0.74 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC=2C=NC=CC2 | C24H20N4O2
